US08937082B2
Nilotinib base Form A (3.00 g, 5.67 mmol) was dissolved in TFE (29 mL, 9.7V) at room temperature with stirring. Separately, malonic acid (0.62 g, 5.95 mmol, 1.05 mol eq), was mixed with TFE (3 mL) and heated to 68° C. to afford dissolution. The malonic acid solution was added to the solution of Nilotinib base in TFE at 68° C. and stirring was continued at the same temperature for 5 h. The heating source was removed and the mixture was allowed to cool to ambient temperature over a period of 30 min. Then, the mixture was transferred to the refrigerator and kept at 5° C. for 16 h. Methyl tert-butyl ether (“MTBE”) (30 mL) was then added and the resulting mixture was stirred at room temperature for about 20 min leading to the formation of a white precipitate. The precipitate was filtered and dried overnight in a vacuum oven (60° C.) to give Nilotinib malonate form I.

reactant | Nilotinib | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F | C28H22F3N7O
reactant | malonic acid | 5.95 mmol, 0.62 g | C(CC(=O)O)(=O)O | C3H4O4
product | Nilotinib malonate | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)C(=O)NC=4C=C(C=C(C4)N5C=C(N=C5)C)C(F)(F)F.C(CC(=O)[O-])(=O)[O-] | InChI=1S/C28H22F3N7O.C3H4O4/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;4-2(5)1-3(6)7/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1H2,(H,4,5)(H,6,7)/p-2
